US05530019
Step 2: Preparation of ethyl 4-(3-benzyloxycarbonyl-1-indolyl)-butyrate
A mixture of benzyl indole-3-carboxylate, ethyl 4-bromobutyrate and potassium t-butoxide in N,N-dimethylformamide was stirred at 50° C. for 4 hours. After insoluble materials were filtered off, the filtrate was diluted with ethyl acetate, and washed with diluted hydrochloric acid and water, dried over magnesium sulfate and concentrated. The concentrate was chromatographed on a silica gel column to give the object compound.

reactant | benzyl indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 4-(3-benzyloxycarbonyl-1-indolyl)-butyrate | C(C1=CC=CC=C1)OC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C22H23NO4
